BPF 
* for 152MHz midband C=265.3pF, 162MHz midband C= 230pF

.include ../models/lumped_inductor.subckt

Vin vin 0 DC 0 AC 1

Rs vin 1 1k
C1 1 gnd 210p
C2 vout gnd 210p
XL 1 vout lumped_inductor l=11n cp=8.8p rs=53m

Rl vout 0 1k

.ac dec 1000 1Meg 1G

.control
run
plot vdb(vout)
plot vp(vout)
.endc
.end
