Colpitts Oscillator

.include ../models/lumped_inductor.subckt
.model KST10 NPN level=2 bf=60 vje=0.95

Vcc vcc gnd DC 15

R1 vcc base 10k
R2 base gnd 2.2k
Rc vcc collector 1.8k
Re emitter gnd 330

Cin vin base 10n
Cout collector vout 10n
Cob collector emitter 0.7p
Rl vout gnd 10k

C1 vout gnd 210p
C2 vin gnd 210p
XL vout vin lumped_inductor l=11n rs=53m cp=8.8p

Q1 collector base emitter KST10

.ic v(vout)=0.001
.tran 0.0000000001 0.00001
.control
run
plot vout
.endc
.end
