* Lumped Inductor Model
*
* Author: Matthew Knight
* File Name: lumped_inductor.subckt
* Date: 2018-03-19

.subckt lumped_inductor 1 2 l=1 rs=1 cp=1

L 1 3 {l}
Rs 3 2 {rs}
Cp 1 2 {cp}

.ends lumped_inductor
